US06562807B2
3-{4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl ]benzoylamino}-2(R)-hydroxypropionic acid
3-{4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2(R)-hydroxypropionic acid methyl ester (280 mg, 0.473 mmol) was dissolved in a mixture of THF (2.5 mL) and methanol (2.5 mL) and 4 N aqueous sodium hydroxide (0.355 mL) was added. The reaction mixture was stirred at room temperature for 2 hours. The pH was adjusted to 3.0 by addition of 1 N hydrochloric acid. Solvent was removed by rotary evaporation in vacuo and the residue re-dissolved in ethyl acetate (10 mL). The organic phase was washed twice with water and once with brine, and then concentrated to dryness in vacuo leaving the title compound as a powder. Yield: 168 mg (89%).

reactant | 3-{4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2(R)-hydroxypropionic acid methyl ester | 0.473 mmol, 280 mg | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C(=O)N[C@@H](C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C1CCCCC1)=O)O)=O | C33H38ClN3O5
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 2.5 mL | CO | CH4O
solvent | sodium hydroxide | 4 N, 0.355 mL | [OH-].[Na+]
product | 3-{4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl ]benzoylamino}-2(R)-hydroxypropionic acid | ClC1=CC=C(C=C1)[C@H](C)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)=O | C32H36ClN3O5
